US09216225B2
Dioctadecyl hydrogen phosphonate may be reacted with dioctadecyl oct-1-en-2-ylphosphonate to produce tetra-octadecyl heptane-1,3-diyldiphosphonate, J, using substantially the conditions found in Phosphorus, Sulfur and Silicon and the Related Elements, 83 (1-4), 77-98:1993. (See FIG. 9) Thus, dioctadecyl hydrogen phosphonate (MW 586.95, 1.56 g, 2.66 mmol), dissolved in THF (6 mL) and sodium hydride (95%, FW 24.0, 2.66 mmol, 0.064 g) are allowed to react under inert atmosphere at RT with stirring. Alternatively, sodium hydride may be replaced by molar equivalence of strong bases such as lithium di-isoproylamide or sodium alkoxide or the like. Then dioctadecyl oct-1-en-2-ylphosphonate, A, (MW 697.15, 1.88 g, 2.69 mmol) is added and allowed to react under an inert atmosphere until the reaction is complete. The reaction progress may be followed by TLC, hplc or 31P nmr. At the completion of reaction the solvent may be removed by evaporation and the crude product purified by normal phase flash chromatography using a suitable solvent system (e.g., hexanes-ethyl acetate gradient (ELSD detection) to yield substantially pure tetraoctadecyl heptane-1,3-diyldiphosphonate. The crude product may also be purified using rphplc (C4, 300 A, and suitable a solvent gradient. The mass of the desired product is 1270.1.

reactant | Sulfur | [S] | S
reactant | sodium hydride | 2.66 mmol, 0.064 g | [H-].[Na+]
reactant | lithium di-isoproylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | dioctadecyl oct-1-en-2-ylphosphonate | C=C(CCCCCC)P(OCCCCCCCCCCCCCCCCCC)(OCCCCCCCCCCCCCCCCCC)=O | C44H89O3P
solvent | Phosphorus | [P] | P
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | tetraoctadecyl heptane-1,3-diyldiphosphonate | C(CC(CCCC)P(OCCCCCCCCCCCCCCCCCC)(OCCCCCCCCCCCCCCCCCC)=O)P(OCCCCCCCCCCCCCCCCCC)(OCCCCCCCCCCCCCCCCCC)=O | C79H162O6P2
